* Z:\Users\richard\BD\sim\opamp_mixer.asc
D1 N003 N004 BAT54
D2 N008 N007 BAT54
D3 N006 N008 BAT54
D4 N004 N002 BAT54
V1 Vcc 0 5V
R1 N002 LO 1k
R2 N002 0 10k
R3 N006 LO 10k
R4 N007 N006 10k
R5 N003 N002 10k
R6 N001 N003 10k
R7 N001 N007 10k
R8 IF N001 20k
R9 N001 0 20k
R10 N001 LO 20k
V2 N005 0 SINE(0 1 42000)
V3 LO 0 PULSE(-2.0 2.0 0 1e-12 1e-12 10e-6 20e-6 500)
R11 N001 LO 20k
V4 Vdd 0 -5V
XU1 0 N002 Vcc Vdd N004 LT1722
XU2 0 N006 Vcc Vdd N008 LT1722
XU3 0 N001 Vcc Vdd IF LT1722
.model D D
.lib C:\Program Files\LTC\LTSpiceIV\lib\cmp\standard.dio
.tran 0.005
.lib LTC.lib
.backanno
.end
